US05629264
Step 4 : Formation of 2-(2,6-dichloro-4-pyridyl)-5,6-diethyl-5-methoxycarbonyl-3-propargyl-5,6-dihydropyrimidin-4-one
To 3.15 g (78 mmol) of sodium hydride in 50 mL of dimethylformamide at 0° C. was added dropwise over 1.5 hr a solution of 26.9 g (75 mmol) of 2-(2,6-dichloro-4-pyridyl)-5,6-diethyl-5-methoxycarbonyl-5,6-dihydropyrimidin-4-one in 200 mL of dimethylformamide. When this addition was complete 12.5 mL (16.73 g, 112.5 mmol) of 80% propargyl brmide in toluene was added and the reaction stirred at room temperature overnight. Upon completion the reaction was quenched onto 600 mL of ice/water, extracted with ethyl acetate (3×400 mL), the organics were combined, washed with water (2×300 mL) and saturated sodium chloride (2×500 mL), dried over Na2SO4, filtered and evaporated to dryness in vacuo to give 29.23 g (73.8 mmol, 98%) of the desired product as a yellow solid.

reactant | sodium hydride | 78 mmol, 3.15 g | [H-].[Na+]
reactant | 2-(2,6-dichloro-4-pyridyl)-5,6-diethyl-5-methoxycarbonyl-5,6-dihydropyrimidin-4-one | 75 mmol, 26.9 g | ClC1=NC(=CC(=C1)C=1NC(C(C(N1)=O)(C(=O)OC)CC)CC)Cl | C15H17Cl2N3O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 2-(2,6-dichloro-4-pyridyl)-5,6-diethyl-5-methoxycarbonyl-3-propargyl-5,6-dihydropyrimidin-4-one | 73.8 mmol, 29.23 g, 98% | ClC1=NC(=CC(=C1)C1=NC(C(C(N1CC#C)=O)(C(=O)OC)CC)CC)Cl | C18H19Cl2N3O3
